US08293917B2
To a solution of 3-[4-(1-{[1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carbonyl]-amino}-butyl)-pyridine-2-sulfonyl]-propionic acid methyl ester (60 mg, 0.12 mmol) in anhydrous DMSO (1.5 mL) is added sodium methoxide in methanol (2.7 M solution freshly prepared by dissolving 250 mg of sodium in 4.0 mL of methanol, 44 μL, 0.12 mmol). After stiffing at room temperature for 15 min, the reaction mixture is cooled to 0° C. and treated with a solution of hydroxylamine-O-sulfonic acid (260 mg, 2.3 mmol) and sodium acetate (150 mg, 1.9 mmol) in water (6 mL). The resultant mixture is warmed to room temperature and stirred overnight for 18 hours. EtOAc (100 mL) is added and the phases are separated. The organic layer is washed with water (4×15 mL, until pH of water layer is ˜5), dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by preparative reverse phase HPLC (eluted with 10 to 65% CH3CN/H2O and 0.1% TFA as additive) to afford 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [1-(2-sulfamoyl-pyridin-4-yl)-butyl]-amide (39 mg, 75%).

reactant | 3-[4-(1-{[1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carbonyl]-amino}-butyl)-pyridine-2-sulfonyl]-propionic acid methyl ester | 0.12 mmol, 60 mg | COC(CCS(=O)(=O)C1=NC=CC(=C1)C(CCC)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl)=O | C24H27ClN4O5S
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 250 mg | [Na] | Na
reactant | hydroxylamine-O-sulfonic acid | 2.3 mmol, 260 mg | NOS(=O)(=O)O | H3NO4S
reactant | sodium acetate | 1.9 mmol, 150 mg | C(C)(=O)[O-].[Na+]
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
solvent | methanol | 4.0 mL | CO | CH4O
solvent | water | 6 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [1-(2-sulfamoyl-pyridin-4-yl)-butyl]-amide | 39 mg, 75% | S(N)(=O)(=O)C1=NC=CC(=C1)C(CCC)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl | C20H22ClN5O3S
